US05783522
3-Chloro-2-(4-cyano-3-ethylsulfonylaminophenyl)-5-trifluoromethylpyridine (Table 3, Example I.404)
In a preparation similar to that described above for 3-chloro-2-(4-chloro-3-methylsulfonylaminophenyl)-5-trifluoromethylpyridine, use of 4.2 g of 3-chloro-2-[4-cyano-3-bis(ethylsulfonyl)aminophenyl]-5-trifluoromethylpyridine, about 100 mg of sodium ethoxide and 100 ml of ethanol resulted in 2.0 g (59%) of colorless crystals;

reactant | 3-chloro-2-(4-chloro-3-methylsulfonylaminophenyl)-5-trifluoromethylpyridine | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)Cl)NS(=O)(=O)C | C13H9Cl2F3N2O2S
reactant | 3-chloro-2-[4-cyano-3-bis(ethylsulfonyl)aminophenyl]-5-trifluoromethylpyridine | 4.2 g | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)C#N)N(S(=O)(=O)CC)S(=O)(=O)CC | C17H15ClF3N3O4S2
reactant | sodium ethoxide | about 100 mg | [O-]CC.[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-Chloro-2-(4-cyano-3-ethylsulfonylaminophenyl)-5-trifluoromethylpyridine | 2.0 g, 59% | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)C#N)NS(=O)(=O)CC | C15H11ClF3N3O2S
